US07528134B2
N-(3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-ylmethyl)-3,4-difluorobenzamide
A mixture of 1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl hydrochloride (20 mg, 0.10 mmol, Saari, W. S.; et al. J. Med. Chem. 1984, 27, 1182), paraformaldehyde (30 mg, 1 mmol), 3,4-diflurobenzamide (79 mg, 0.5 mmol, Lancaster), and 42 mg of potassium carbonate (0.3 mmol) in 2.5 mL absolute ethyl alcohol was heated to reflux under nitrogen overnight. The mixture was cooled to room temperature, filtered, and the solvent was removed. The residue was purified by flash column chromatography on silica gel (10% methanol:ethyl acetate) to give 18 mg (55%) pure compound. 1H NMR (500 MHz, DMSO-d6) δ 2.58 (m, 2H), 2.79 (t, J=4 Hz, 2H), 3.32 (m, 2H), 4.28 (d, J=5 Hz, 2H), 6.71 (m, 1H), 7.22 (m, 1H), 7.55 (m, 2H), 7.83 (m, 2H), 7.95 (t, J=6 Hz, 1H), 8.52 (m, 1H) 8.95 (t, J=5 Hz, 1H); MS (ESI/APCI−) m/e 328 (M−H)+.

reactant | 1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl hydrochloride | 0.10 mmol, 20 mg | Cl.N1=C(C=CC=C1)C=1CCNCC1
reactant | paraformaldehyde | 1 mmol, 30 mg | C=O | CH2O
reactant | 3,4-diflurobenzamide | 0.5 mmol, 79 mg | FC=1C=C(C(=O)N)C=CC1F | C7H5F2NO
reactant | potassium carbonate | 0.3 mmol, 42 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl alcohol | 2.5 mL | C(C)O | C2H6O
product | N-(3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-ylmethyl)-3,4-difluorobenzamide | 18 mg, 55% | N1=C(C=CC=C1)C=1CCN(CC1)CNC(C1=CC(=C(C=C1)F)F)=O | C18H17F2N3O
